US04289768
A mixture of 25 g of 2-chloro-phenothiazine-5-oxide, 14 g of 3-(imidazol-1-yl)-propionic acid, 20.6 g of dicyclohexylcarbodiimide and 250 ml of tetrahydrofuran is stirred for 1 hour at 0° and then for 2 hours at 30°. It is worked up in the customary manner to give 2-chloro-10-[3-(imidazol-1-yl)-propionyl]-phenothiazine-5-oxide, melting point 148°-149°.

reactant | 2-chloro-phenothiazine-5-oxide | 25 g | ClC1=CC=2NC3=CC=CC=C3S(C2C=C1)=O | C12H8ClNOS
reactant | 3-(imidazol-1-yl)-propionic acid | 14 g | N1(C=NC=C1)CCC(=O)O | C6H8N2O2
reactant | dicyclohexylcarbodiimide | 20.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-chloro-10-[3-(imidazol-1-yl)-propionyl]-phenothiazine-5-oxide | ClC1=CC=2N(C3=CC=CC=C3S(C2C=C1)=O)C(CCN1C=NC=C1)=O | C18H14ClN3O2S
